US06858592B2
Preparation of 4-(11′-hydroxyundecyl)carboxyphenylboronic acid
A mixture of 4-carboxyphenylboronic acid (1.0 grams), potassium hydrogen carbonate (2.01 g), 11-bromo-1-undecanol, and N,N-dimethylformamide (60 mL) was heated at 60° C. under a nitrogen atmosphere for 18 hours. After the heating period, the mixture was allowed to cool to room temperature. The mixture was then filtered and the filtrate was concentrated on a rotary evaporator. The concentrated filtrate was diluted with ethyl acetate (500 mL) and the ethyl acetate was washed successively with saturated aqueous sodium bicarbonate (3×300 mL), followed by saturated aqueous sodium chloride (300 mL). After drying over sodium sulfate, the ethyl acetate extract was concentrated on a rotary evaporator and dried under reduced pressure to afford 2.2 grams of the desired product as a light yellow viscous oil that solidified upon standing to a white powder.

reactant | 4-carboxyphenylboronic acid | 1.0 grams | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium hydrogen carbonate | 2.01 g | C(O)([O-])=O.[K+]
reactant | 11-bromo-1-undecanol | BrCCCCCCCCCCCO | C11H23BrO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-(11′-hydroxyundecyl)carboxyphenylboronic acid | 2.2 grams | OCCCCCCCCCCCC1=CC=C(C=C1)B(OC(=O)O)O | C18H29BO5
